# Netlist for a complicated problem

G1 0 1 generator
G2 0 2 generator
A1 0 3 APU
A2 0 4 APU
G3 0 5 generator
G4 0 6 generator
C1 1 7 contactor
C2 2 8 contactor
C3 3 9 contactor
C4 4 10 contactor
C5 5 11 contactor
C6 6 12 contactor
B1 8 13 14 38 bus AC
C7 14 15 contactor
B2 9 15 16 17 18 bus AC
C8 18 19 contactor
B3 10 19 20 21 22 bus AC
C9 22 23 contactor
B4 11 23 24 25 bus AC
C10 13 26 contactor
T1 26 32 TRU
C11 16 27 contactor
T2 27 33 TRU
C12 17 28 contactor
C13 20 29 contactor
C14 21 30 contactor
T3 30 34 TRU
C15 24 31 contactor
T4 31 35 TRU
B5 32 33 36 bus DC
C18 36 37 contactor
B6 34 35 37 bus DC
C16 38 39 contactor
C17 25 40 contactor
C19 38 28 contactor
C20 29 25 contactor
#ACT1
#ACT2
B7 28 46 48 bus AC
B8 29 47 50 bus AC
C21 46 47 contactor
T5 39 60 TRU
T6 40 61 TRU
C22 48 49 contactor
C23 50 51 contactor
B9 49 7 52 54 bus AC
C25 52 53 contactor
B10 51 53 12 56 bus AC
C24 54 55 contactor
C26 56 57 contactor
T7 55 58 TRU
T8 57 59 TRU
B11 58 62 65 74 bus DC
C27 74 75 contactor
B12 59 75 67 69 bus DC
C28 62 63 contactor
C30 65 66 contactor
C31 67 68 contactor
C32 69 70 contactor
B13 60 63 66 72 bus DC
C34 72 73 contactor
B14 73 68 61 70 bus DC
.end