# Netlist for simplified Challenge Problem (SLD level)

G1 0 1 generator
A1 0 3 APU
A2 0 4 APU
G2 0 5 generator
C1 1 2 contactor
C2 3 8 contactor
C3 4 8 contactor
C4 5 6 contactor
B1 2 7 10 bus AC
C5 7 8 contactor
C6 8 9 contactor
B2 6 13 9 bus AC
C7 10 14 contactor
C8 13 15 contactor
T1 14 16 TRU
T2 15 17 TRU
B3 16 18 bus DC
B5 19 20 bus DC
B4 17 21 bus DC
C9 18 19 contactor
C10 20 21 contactor
.end