# write-up problem

G1 0 1 generator
G2 0 3 generator
C1 1 2 contactor
C2 3 4 contactor
C3 5 6 contactor
B1 2 5 7 bus AC
B2 4 6 9 bus AC
T1 7 8 TRU
T2 9 10 TRU
C4 8 11 contactor
C5 10 12 contactor
B3 11 13 bus DC
B4 12 14 bus DC
C6 13 14 contactor
.end